US07304081B2
To a solution of 1-(4-chlorophenyl)cyclopropanecarboxylic acid (50 mg, 0.25 mmol), (3S)-pyrrolidin-3-ol (24.4 mg, 0.28 mmol) and BOP (116.0 mg, 0.26 mmol) in 0.4 mL DMF was added hunig base (0.066 ml, 0.38 mmol). The mixture was stirred at room temperature overnight and directly purified by prep. HPLC to provide (3S)-1-((1-(4-chlorophenyl)cyclopropyl)carbonyl)pyrrolidin-3-ol (20 mg). LCMS: m/z 266.0 (M+H)+; 553.1 (2M+Na)+.

reactant | 1-(4-chlorophenyl)cyclopropanecarboxylic acid | 0.25 mmol, 50 mg | ClC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9ClO2
reactant | (3S)-pyrrolidin-3-ol | 0.28 mmol, 24.4 mg | N1C[C@H](CC1)O | C4H9NO
reactant | BOP | 0.26 mmol, 116.0 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | hunig base | 0.38 mmol, 0.066 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | (3S)-1-((1-(4-chlorophenyl)cyclopropyl)carbonyl)pyrrolidin-3-ol | 20 mg | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@H](CC1)O | C14H16ClNO2
